US06727264B1
N-{3-[1-(4-{[([1,1′-BIPHENYL]-4-YLAMINO)CARBONYL]AMINO}BUTYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure Q2 (THF/DCM, 1:3) and Scheme AT using N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 4-biphenyl isocyanate: ESMS m/e: 513.0 (M+H)+.

reactant | N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C19H31N3O
reactant | 4-biphenyl isocyanate | C1=CC=C(C=C1)C2=CC=C(C=C2)N=C=O | C13H9NO
solvent | THF DCM | C1CCOC1.C(Cl)Cl
product | N-{3-[1-(4-{[([1,1′-BIPHENYL]-4-YLAMINO)CARBONYL]AMINO}BUTYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | C1(=CC=C(C=C1)NC(=O)NCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C32H40N4O2
